US07432284B2
A solution of 1,3a-diethyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[α]naphthalen-2-one (10 mg, 0.036 mmol) in anhydrous CH2Cl2 (0.36 mL) was cooled in an ice bath, stirred under a N2 atmosphere, and treated with 1M BBr3 in CH2Cl2 (0.11 mL, 0.11 mmol). The resulting yellow suspension was stirred at 0-5° C. for 170 minutes and then treated with 1N HCl in diethyl ether (0.20 mL). The resulting mixture was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 1:1 hexane-EtOAc. The UV visible product band was eluted with 5% methanol in CH2Cl2 and the eluant was evaporated under vacuum to afford 1,3a-diethyl-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one as a white solid.

reactant | 1,3a-diethyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[α]naphthalen-2-one | 0.036 mmol, 10 mg | C(C)C=1C(CC2(C1C1=CC=C(C=C1CC2)OC)CC)=O | C18H22O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 0.36 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 0.20 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | 0.11 mmol, 0.11 mL | C(Cl)Cl | CH2Cl2
product | 1,3a-diethyl-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | C(C)C=1C(CC2(C1C1=CC=C(C=C1CC2)O)CC)=O | C17H20O2
